// Asynchronous sigma-delta modulator with a first-order low-pass loop filter,
// for comparison against the event-driven simulator.
//
// The self-oscillation frequency is normalized to f0 = 1 Hz. The loop filter
// has a DC gain A_DC = 1 and a corner frequency beta0 * f0, and the hysteresis
// of the quantizer is set to tanh(pi * beta0 / 2), so that the modulator
// self-oscillates at f0.
//
// The binary output is demodulated inside the netlist by a Butterworth
// low-pass filter at 4 fu, so that the strobed output cannot alias.
simulator lang=spectre
global 0

ahdl_include "quantizer.va"

parameters fu={fu} uamp={uamp}
parameters rr={rr} cc={cc}
parameters delta={delta}
parameters trise={trise}

Vu (u 0)      vsource type=sine ampl=uamp freq=fu
Be (e 0)      bsource v=V(u)-V(v)
R1 (e y)      resistor r=rr
C1 (y 0)      capacitor c=cc
X1 (y v)      quantizer delta=delta tr=trise

Ed (vd 0 v 0) svcvs poles={poles} gain=1

// The modulator has no stable operating point, so the transient starts from an
// initial condition instead of a DC solution
ic y=0

simulatorOptions options reltol={reltol}

save vd

tran tran stop={tstop} maxstep={mstep} strobeperiod={strobe} strobedelay=0 errpreset={errpreset} skipdc=yes
